US04178324
3-hydroxypropyl methacrylate;
2,3 dihydroxypropyl methacrylate; 2-hydroxybutyl methacrylate; 4-hydroxybutyl methacrylate; 3,4-dihydroxybutyl methacrylate; 5-hydroxypentyl methacrylate; 6-hydroxyhexyl methacrylate; 1,3-dimethyl-3-hydroxybutyl methacrylate; 5,6 dihydroxyhexyl methacrylate; and 7-hydroxyheptyl methacrylate.

reactant | 2,3 dihydroxypropyl methacrylate | C(C(=C)C)(=O)OCC(CO)O | C7H12O4
reactant | 2-hydroxybutyl methacrylate | C(C(=C)C)(=O)OCC(CC)O | C8H14O3
reactant | 4-hydroxybutyl methacrylate | C(C(=C)C)(=O)OCCCCO | C8H14O3
reactant | 3,4-dihydroxybutyl methacrylate | C(C(=C)C)(=O)OCCC(CO)O | C8H14O4
reactant | 5-hydroxypentyl methacrylate | C(C(=C)C)(=O)OCCCCCO | C9H16O3
reactant | 6-hydroxyhexyl methacrylate | C(C(=C)C)(=O)OCCCCCCO | C10H18O3
reactant | 1,3-dimethyl-3-hydroxybutyl methacrylate | C(C(=C)C)(=O)OC(CC(C)(O)C)C | C10H18O3
reactant | 5,6 dihydroxyhexyl methacrylate | C(C(=C)C)(=O)OCCCCC(CO)O | C10H18O4
reactant | 7-hydroxyheptyl methacrylate | C(C(=C)C)(=O)OCCCCCCCO | C11H20O3
product | 3-hydroxypropyl methacrylate | C(C(=C)C)(=O)OCCCO | C7H12O3
